US09427475B2
Step D: 6-{bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]amino}-6-oxohexanoic acid
To a stirred solution of benzyl 6-{bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]amino}-6-oxohexanoate (900 mg, 1.233 mmol) in H2O (5 mL) at rt was added dihydroxypalladium (866 mg, 1.233 mmol). The mixture was degassed and then stirred under a balloon of H2. After stirring at rt under H2 for 16 hr, the reaction mixture was filtered through a Celite pad and washed with CH3OH (3×10 mL). The filtrate was concentrated to give the title compound. LC-MS Method A: m/e=640.17 [M+1]; Rt=0.98 min.

reactant | benzyl 6-{bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]amino}-6-oxohexanoate | 1.233 mmol, 900 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCNC(CN(C(CCCCC(=O)OCC1=CC=CC=C1)=O)CC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)=O | C33H51N3O15
solvent | H2O | 5 mL | O | H2O
catalyst | dihydroxypalladium | 1.233 mmol, 866 mg | O[Pd]O
product | 6-{bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]amino}-6-oxohexanoic acid | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCNC(CN(C(CCCCC(=O)O)=O)CC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)=O | C26H45N3O15
